US04350752
1-(Phthalimidomethyl)benzotriazole
A solution of potassium phthalimide (5.55 g) and crude 1-(chloromethyl)benzotriazole (5.02 g) in 75 ml dimethylformamide was stirred at ambient temperature for 2 hours. An additional portion of potassium phthalimide (1.0 g) was added. After 2 hours an aqueous ethyl acetate extractive work up gave a crude solid. Recrystallization from acetonitrile gave a colorless solid, m.p. 177°-180° C. (5.49 g).

reactant | potassium phthalimide | 5.55 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 1-(chloromethyl)benzotriazole | 5.02 g | ClCN1N=NC2=C1C=CC=C2 | C7H6ClN3
reactant | potassium phthalimide | 1.0 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 1-(Phthalimidomethyl)benzotriazole | C1(C=2C(C(N1CN1N=NC3=C1C=CC=C3)=O)=CC=CC2)=O | C15H10N4O2
